US04055561
Following essentially the same procedure described in Example IV above and substituting ρ-(2,2-diphenylvinyl)-α-methylbenzylamine hydrochloride for the α-methyl-ρ-phenethylbenzylamine hydrochloride above, results in the formation of 2-[ρ-(2,2-Diphenylvinyl)-α-methylbenzylimino hexahydroazepine hydrochloride having a M.P. of 219°-21° C.

reactant | ρ-(2,2-diphenylvinyl)-α-methylbenzylamine hydrochloride | Cl.C1(=CC=CC=C1)C(=CC1=CC=C(C(C)N)C=C1)C1=CC=CC=C1
reactant | α-methyl-ρ-phenethylbenzylamine hydrochloride | Cl.CC(C1=CC=C(C=C1)CCC1=CC=CC=C1)N
product | ρ-(2,2-Diphenylvinyl)-α-methylbenzylimino hexahydroazepine hydrochloride | Cl.C1(=CC=CC=C1)C(=CC1=CC=C(C(C)N=C2NCCCCC2)C=C1)C1=CC=CC=C1 | InChI=1S/C28H30N2.ClH/c1-22(30-28-15-9-4-10-20-29-28)24-18-16-23(17-19-24)21-27(25-11-5-2-6-12-25)26-13-7-3-8-14-26;/h2-3,5-8,11-14,16-19,21-22H,4,9-10,15,20H2,1H3,(H,29,30);1H
